US07842715B2
Step 2) (3′S)-1′-[4-(3-methylphenoxy)benzoyl]-1,3′-bipyrrolidine hydrochloride
A solution of (3′S)-1′-(4-fluorobenzoyl)-1,3′-bipyrrolidine (0.011 g, 0.381 mmol in dimethylformamide was treated with m-cresol (0.127 g, 1.14 mmol) and potassium carbonate (0.105 g, 0.762 mmol), heated to 150° C. via microwave radiation for 20 minutes and cooled to room temperature. The reaction mixture was diluted with dichloromethane, washed sequentially with water and saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The resultant residue was purified by flash column chromatography (silica, methanol:dichloromethane 5:95) to give the free amine of the title product as a yellow oil. This oil was dissolved in isopropanol and diethyl ether (1:10), treated with 1.0N HCl in diethyl ether and filtered. The filter cake was dried to afford the title product as a yellow solid, 0.021 g (16%), identified by NMR and mass spectral analyses. MS [351.3 m/e (M+H)].

reactant | (3′S)-1′-(4-fluorobenzoyl)-1,3′-bipyrrolidine | FC1=CC=C(C(=O)N2C[C@H](CC2)N2CCCC2)C=C1 | C15H19FN2O
reactant | m-cresol | 1.14 mmol, 0.127 g | C1=C(C=CC=C1O)C | C7H8O
reactant | potassium carbonate | 0.762 mmol, 0.105 g | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (3′S)-1′-[4-(3-methylphenoxy)benzoyl]-1,3′-bipyrrolidine hydrochloride | Cl.CC=1C=C(OC2=CC=C(C(=O)N3C[C@H](CC3)N3CCCC3)C=C2)C=CC1 | InChI=1S/C22H26N2O2.ClH/c1-17-5-4-6-21(15-17)26-20-9-7-18(8-10-20)22(25)24-14-11-19(16-24)23-12-2-3-13-23;/h4-10,15,19H,2-3,11-14,16H2,1H3;1H/t19-;/m0./s1
